US04405635
1,3-Dihydro-4-methyl-5-[4-(1-piperidinyl)benzoyl]-2H-imidazol-2-one
A suspension of 11.0 g (0.05 mole) of 1,3-dihydro-4-(4-fluorobenzoyl)-5-methyl-2H-imidazol-2-one in 30 ml of piperidine is stirred at reflux temperature for 24 hours. Excess piperidine is evaporated under reduced pressure and the residue is recrystallized twice from a mixture of isopropanol and water to give 11.9 g of the title compound. M.P. 260°-263° C.

reactant | 1,3-dihydro-4-(4-fluorobenzoyl)-5-methyl-2H-imidazol-2-one | 0.05 mole, 11.0 g | FC1=CC=C(C(=O)C=2NC(NC2C)=O)C=C1 | C11H9FN2O2
reactant | piperidine | 30 ml | N1CCCCC1 | C5H11N
product | 1,3-Dihydro-4-methyl-5-[4-(1-piperidinyl)benzoyl]-2H-imidazol-2-one | 11.9 g | CC=1NC(NC1C(C1=CC=C(C=C1)N1CCCCC1)=O)=O | C16H19N3O2
